* Subcircuit SN74LS193
.subckt SN74LS193 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ unconnected-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ unconnected-_u1-pad16_ 
.title kicad schematic
.include 5_and.sub
.include 4_and.sub
.include 3_and.sub
* u9 net-_u9-pad1_ net-_u1-pad13_ d_inverter
* u10 net-_u10-pad1_ net-_u1-pad12_ d_inverter
x5 net-_u11-pad1_ net-_u11-pad2_ net-_u28-pad6_ net-_u25-pad6_ net-_u26-pad6_ net-_u9-pad1_ 5_and
x6 net-_u1-pad3_ net-_u1-pad2_ net-_u1-pad6_ net-_u1-pad7_ net-_u12-pad2_ net-_u10-pad1_ 5_and
* u5 net-_u1-pad14_ net-_u5-pad2_ d_inverter
x3 net-_u1-pad15_ net-_u2-pad2_ net-_u5-pad2_ net-_u15-pad1_ 3_and
* u3 net-_u1-pad4_ net-_u11-pad1_ d_inverter
* u4 net-_u1-pad5_ net-_u12-pad2_ d_inverter
* u24 net-_u16-pad2_ net-_u2-pad2_ net-_u24-pad3_ d_and
* u16 net-_u16-pad1_ net-_u16-pad2_ d_inverter
* u28 net-_u20-pad3_ net-_u25-pad2_ net-_u16-pad1_ net-_u28-pad4_ net-_u1-pad2_ net-_u28-pad6_ d_tff
* u32 net-_u1-pad14_ net-_u24-pad3_ net-_u28-pad4_ d_or
* u20 net-_u11-pad3_ net-_u12-pad3_ net-_u20-pad3_ d_or
* u15 net-_u15-pad1_ net-_u15-pad2_ d_inverter
* u23 net-_u15-pad2_ net-_u2-pad2_ net-_u23-pad3_ d_and
* u19 net-_u11-pad1_ net-_u12-pad2_ net-_u19-pad3_ d_or
x4 net-_u1-pad1_ net-_u2-pad2_ net-_u6-pad2_ net-_u16-pad1_ 3_and
* u6 net-_u1-pad14_ net-_u6-pad2_ d_inverter
* u11 net-_u11-pad1_ net-_u11-pad2_ net-_u11-pad3_ d_and
* u31 net-_u1-pad14_ net-_u23-pad3_ net-_u27-pad4_ d_or
* u27 net-_u19-pad3_ net-_u25-pad2_ net-_u15-pad1_ net-_u27-pad4_ net-_u1-pad3_ net-_u11-pad2_ d_tff
* u12 net-_u1-pad3_ net-_u12-pad2_ net-_u12-pad3_ d_and
x9 net-_u11-pad1_ net-_u11-pad2_ net-_u28-pad6_ net-_u18-pad1_ 3_and
x1 net-_u1-pad10_ net-_u2-pad2_ net-_u8-pad2_ net-_u13-pad1_ 3_and
* u8 net-_u1-pad14_ net-_u8-pad2_ d_inverter
x10 net-_u1-pad3_ net-_u1-pad2_ net-_u12-pad2_ net-_u18-pad2_ 3_and
* u30 net-_u1-pad14_ net-_u22-pad3_ net-_u26-pad4_ d_or
* u7 net-_u1-pad14_ net-_u7-pad2_ d_inverter
x2 net-_u1-pad9_ net-_u2-pad2_ net-_u7-pad2_ net-_u14-pad1_ 3_and
* u22 net-_u14-pad2_ net-_u2-pad2_ net-_u22-pad3_ d_and
x8 net-_u1-pad3_ net-_u1-pad2_ net-_u1-pad6_ net-_u12-pad2_ net-_u17-pad2_ 4_and
* u14 net-_u14-pad1_ net-_u14-pad2_ d_inverter
x7 net-_u11-pad1_ net-_u11-pad2_ net-_u28-pad6_ net-_u25-pad6_ net-_u17-pad1_ 4_and
* u17 net-_u17-pad1_ net-_u17-pad2_ net-_u17-pad3_ d_or
* u21 net-_u13-pad2_ net-_u2-pad2_ net-_u21-pad3_ d_and
* u18 net-_u18-pad1_ net-_u18-pad2_ net-_u18-pad3_ d_or
* u13 net-_u13-pad1_ net-_u13-pad2_ d_inverter
* u29 net-_u1-pad14_ net-_u21-pad3_ net-_u25-pad4_ d_or
* u25 net-_u18-pad3_ net-_u25-pad2_ net-_u13-pad1_ net-_u25-pad4_ net-_u1-pad6_ net-_u25-pad6_ d_tff
* u34 clk plot_v1
* u33 clk net-_u25-pad2_ adc_bridge_1
* u26 net-_u17-pad3_ net-_u25-pad2_ net-_u14-pad1_ net-_u26-pad4_ net-_u1-pad7_ net-_u26-pad6_ d_tff
v1 clk gnd pulse(0 5 0 1n 1n 0.5 1)
* u2 net-_u1-pad11_ net-_u2-pad2_ d_inverter
a1 net-_u9-pad1_ net-_u1-pad13_ u9
a2 net-_u10-pad1_ net-_u1-pad12_ u10
a3 net-_u1-pad14_ net-_u5-pad2_ u5
a4 net-_u1-pad4_ net-_u11-pad1_ u3
a5 net-_u1-pad5_ net-_u12-pad2_ u4
a6 [net-_u16-pad2_ net-_u2-pad2_ ] net-_u24-pad3_ u24
a7 net-_u16-pad1_ net-_u16-pad2_ u16
a8 net-_u20-pad3_ net-_u25-pad2_ net-_u16-pad1_ net-_u28-pad4_ net-_u1-pad2_ net-_u28-pad6_ u28
a9 [net-_u1-pad14_ net-_u24-pad3_ ] net-_u28-pad4_ u32
a10 [net-_u11-pad3_ net-_u12-pad3_ ] net-_u20-pad3_ u20
a11 net-_u15-pad1_ net-_u15-pad2_ u15
a12 [net-_u15-pad2_ net-_u2-pad2_ ] net-_u23-pad3_ u23
a13 [net-_u11-pad1_ net-_u12-pad2_ ] net-_u19-pad3_ u19
a14 net-_u1-pad14_ net-_u6-pad2_ u6
a15 [net-_u11-pad1_ net-_u11-pad2_ ] net-_u11-pad3_ u11
a16 [net-_u1-pad14_ net-_u23-pad3_ ] net-_u27-pad4_ u31
a17 net-_u19-pad3_ net-_u25-pad2_ net-_u15-pad1_ net-_u27-pad4_ net-_u1-pad3_ net-_u11-pad2_ u27
a18 [net-_u1-pad3_ net-_u12-pad2_ ] net-_u12-pad3_ u12
a19 net-_u1-pad14_ net-_u8-pad2_ u8
a20 [net-_u1-pad14_ net-_u22-pad3_ ] net-_u26-pad4_ u30
a21 net-_u1-pad14_ net-_u7-pad2_ u7
a22 [net-_u14-pad2_ net-_u2-pad2_ ] net-_u22-pad3_ u22
a23 net-_u14-pad1_ net-_u14-pad2_ u14
a24 [net-_u17-pad1_ net-_u17-pad2_ ] net-_u17-pad3_ u17
a25 [net-_u13-pad2_ net-_u2-pad2_ ] net-_u21-pad3_ u21
a26 [net-_u18-pad1_ net-_u18-pad2_ ] net-_u18-pad3_ u18
a27 net-_u13-pad1_ net-_u13-pad2_ u13
a28 [net-_u1-pad14_ net-_u21-pad3_ ] net-_u25-pad4_ u29
a29 net-_u18-pad3_ net-_u25-pad2_ net-_u13-pad1_ net-_u25-pad4_ net-_u1-pad6_ net-_u25-pad6_ u25
a30 [clk ] [net-_u25-pad2_ ] u33
a31 net-_u17-pad3_ net-_u25-pad2_ net-_u14-pad1_ net-_u26-pad4_ net-_u1-pad7_ net-_u26-pad6_ u26
a32 net-_u1-pad11_ net-_u2-pad2_ u2
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u9 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u10 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u5 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u3 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u4 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u24 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u16 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_tff, Ngspice Name: d_tff
.model u28 d_tff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 t_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u32 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u20 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u15 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u23 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u19 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u6 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u11 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u31 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_tff, Ngspice Name: d_tff
.model u27 d_tff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 t_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u12 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u8 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u30 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u7 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u22 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u14 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u17 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u21 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u18 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u13 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u29 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_tff, Ngspice Name: d_tff
.model u25 d_tff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 t_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u33 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_tff, Ngspice Name: d_tff
.model u26 d_tff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 t_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Control Statements

.ends SN74LS193