* Subcircuit SN74LS194
.subckt SN74LS194 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ ? net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ ? 
* c:\users\ajay\onedrive\desktop\fossee2.3\esim\library\subcircuitlibrary\sn74ls194\sn74ls194.cir
* u6  net-_u15-pad1_ net-_u1-pad2_ net-_u6-pad3_ d_and
* u11  net-_u1-pad3_ net-_u11-pad2_ net-_u11-pad3_ d_and
* u13  net-_u1-pad14_ net-_u13-pad2_ net-_u12-pad1_ d_and
* u14  net-_u14-pad1_ net-_u10-pad3_ ? net-_u1-pad1_ net-_u1-pad15_ ? d_dff
* u9  net-_u8-pad2_ net-_u14-pad1_ d_inverter
* u15  net-_u15-pad1_ net-_u1-pad15_ net-_u15-pad3_ d_and
* u19  net-_u1-pad4_ net-_u11-pad2_ net-_u19-pad3_ d_and
* u21  net-_u1-pad13_ net-_u13-pad2_ net-_u20-pad1_ d_and
* u22  net-_u18-pad2_ net-_u10-pad3_ ? net-_u1-pad1_ net-_u1-pad14_ ? d_dff
* u18  net-_u17-pad2_ net-_u18-pad2_ d_inverter
* u23  net-_u15-pad1_ net-_u1-pad14_ net-_u23-pad3_ d_and
* u27  net-_u1-pad5_ net-_u11-pad2_ net-_u27-pad3_ d_and
* u29  net-_u1-pad12_ net-_u13-pad2_ net-_u28-pad1_ d_and
* u30  net-_u26-pad2_ net-_u10-pad3_ ? net-_u1-pad1_ net-_u1-pad13_ ? d_dff
* u26  net-_u25-pad2_ net-_u26-pad2_ d_inverter
* u31  net-_u15-pad1_ net-_u1-pad13_ net-_u31-pad3_ d_and
* u35  net-_u1-pad6_ net-_u11-pad2_ net-_u35-pad3_ d_and
* u37  net-_u1-pad7_ net-_u13-pad2_ net-_u36-pad1_ d_and
* u38  net-_u34-pad2_ net-_u10-pad3_ ? net-_u1-pad1_ net-_u1-pad12_ ? d_dff
* u34  net-_u33-pad2_ net-_u34-pad2_ d_inverter
* u2  net-_u1-pad9_ net-_u13-pad2_ d_inverter
* u3  net-_u1-pad10_ net-_u15-pad1_ d_inverter
* u4  net-_u13-pad2_ net-_u15-pad1_ net-_u11-pad2_ d_nor
* u5  net-_u15-pad1_ net-_u13-pad2_ net-_u10-pad1_ d_and
* u10  net-_u10-pad1_ net-_u1-pad11_ net-_u10-pad3_ d_nor
* u12  net-_u12-pad1_ net-_u11-pad3_ net-_u12-pad3_ d_or
* u7  net-_u12-pad3_ net-_u6-pad3_ net-_u7-pad3_ d_or
* u8  net-_u7-pad3_ net-_u8-pad2_ d_inverter
* u20  net-_u20-pad1_ net-_u19-pad3_ net-_u16-pad1_ d_or
* u16  net-_u16-pad1_ net-_u15-pad3_ net-_u16-pad3_ d_or
* u17  net-_u16-pad3_ net-_u17-pad2_ d_inverter
* u28  net-_u28-pad1_ net-_u27-pad3_ net-_u24-pad1_ d_or
* u24  net-_u24-pad1_ net-_u23-pad3_ net-_u24-pad3_ d_or
* u25  net-_u24-pad3_ net-_u25-pad2_ d_inverter
* u36  net-_u36-pad1_ net-_u35-pad3_ net-_u32-pad1_ d_or
* u32  net-_u32-pad1_ net-_u31-pad3_ net-_u32-pad3_ d_or
* u33  net-_u32-pad3_ net-_u33-pad2_ d_inverter
a1 [net-_u15-pad1_ net-_u1-pad2_ ] net-_u6-pad3_ u6
a2 [net-_u1-pad3_ net-_u11-pad2_ ] net-_u11-pad3_ u11
a3 [net-_u1-pad14_ net-_u13-pad2_ ] net-_u12-pad1_ u13
a4 net-_u14-pad1_ net-_u10-pad3_ ? net-_u1-pad1_ net-_u1-pad15_ ? u14
a5 net-_u8-pad2_ net-_u14-pad1_ u9
a6 [net-_u15-pad1_ net-_u1-pad15_ ] net-_u15-pad3_ u15
a7 [net-_u1-pad4_ net-_u11-pad2_ ] net-_u19-pad3_ u19
a8 [net-_u1-pad13_ net-_u13-pad2_ ] net-_u20-pad1_ u21
a9 net-_u18-pad2_ net-_u10-pad3_ ? net-_u1-pad1_ net-_u1-pad14_ ? u22
a10 net-_u17-pad2_ net-_u18-pad2_ u18
a11 [net-_u15-pad1_ net-_u1-pad14_ ] net-_u23-pad3_ u23
a12 [net-_u1-pad5_ net-_u11-pad2_ ] net-_u27-pad3_ u27
a13 [net-_u1-pad12_ net-_u13-pad2_ ] net-_u28-pad1_ u29
a14 net-_u26-pad2_ net-_u10-pad3_ ? net-_u1-pad1_ net-_u1-pad13_ ? u30
a15 net-_u25-pad2_ net-_u26-pad2_ u26
a16 [net-_u15-pad1_ net-_u1-pad13_ ] net-_u31-pad3_ u31
a17 [net-_u1-pad6_ net-_u11-pad2_ ] net-_u35-pad3_ u35
a18 [net-_u1-pad7_ net-_u13-pad2_ ] net-_u36-pad1_ u37
a19 net-_u34-pad2_ net-_u10-pad3_ ? net-_u1-pad1_ net-_u1-pad12_ ? u38
a20 net-_u33-pad2_ net-_u34-pad2_ u34
a21 net-_u1-pad9_ net-_u13-pad2_ u2
a22 net-_u1-pad10_ net-_u15-pad1_ u3
a23 [net-_u13-pad2_ net-_u15-pad1_ ] net-_u11-pad2_ u4
a24 [net-_u15-pad1_ net-_u13-pad2_ ] net-_u10-pad1_ u5
a25 [net-_u10-pad1_ net-_u1-pad11_ ] net-_u10-pad3_ u10
a26 [net-_u12-pad1_ net-_u11-pad3_ ] net-_u12-pad3_ u12
a27 [net-_u12-pad3_ net-_u6-pad3_ ] net-_u7-pad3_ u7
a28 net-_u7-pad3_ net-_u8-pad2_ u8
a29 [net-_u20-pad1_ net-_u19-pad3_ ] net-_u16-pad1_ u20
a30 [net-_u16-pad1_ net-_u15-pad3_ ] net-_u16-pad3_ u16
a31 net-_u16-pad3_ net-_u17-pad2_ u17
a32 [net-_u28-pad1_ net-_u27-pad3_ ] net-_u24-pad1_ u28
a33 [net-_u24-pad1_ net-_u23-pad3_ ] net-_u24-pad3_ u24
a34 net-_u24-pad3_ net-_u25-pad2_ u25
a35 [net-_u36-pad1_ net-_u35-pad3_ ] net-_u32-pad1_ u36
a36 [net-_u32-pad1_ net-_u31-pad3_ ] net-_u32-pad3_ u32
a37 net-_u32-pad3_ net-_u33-pad2_ u33
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u6 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u11 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u13 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u14 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u9 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u15 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u19 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u21 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u22 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u18 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u23 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u27 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u29 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u30 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u26 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u31 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u35 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u37 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u38 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u34 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u3 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u4 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u5 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u10 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u12 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u7 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u8 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u20 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u16 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u17 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u28 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u24 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u25 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u36 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u32 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u33 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Control Statements

.ends SN74LS194